US07323455B2
4-(5-Ethyl-2-oxo-5-thien-2-yl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)thiophene-2-carbonitrile
Prepared from 7-bromo-5-ethyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 4-bromo-2-cyanothiophene generally according to the procedures described in examples 82 and 1. A yellowish solid: mp 202-204° C.; 1H NMR (DMSO-d6): δ 10.06 (s, 1H), 8.48 (s, 1H), 8.33 (s, 1H), 7.64-7.7 (m, 2H), 7.55 (d, J=5.0 Hz, 1H), 7.23 (d, J=8.48 Hz, 1H), 6.92-7.03 (m, 2H), 4.06 (d, J=15.52 Hz, 1H), 3.94 (d, J=15.44 Hz, 1H), 3.37 (m, 1H), 2.5 (m, 1H), 0.76 (t, J=6.79 Hz, 1H); MS (ESI) m/z 381 ([M+H]+); MS (ESI) m/z 379 ([M−H]−); Anal. calcd for C20H16N2O2S2: C, 63.14; H, 4.24; N, 7.36. Found: C, 62.53; H, 4.25; N, 7.12.

reactant | 7-bromo-5-ethyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C=2SC=CC2)CC)C1 | C15H14BrNO2S
reactant | 4-bromo-2-cyanothiophene | BrC=1C=C(SC1)C#N | C5H2BrNS
product | 4-(5-Ethyl-2-oxo-5-thien-2-yl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)thiophene-2-carbonitrile | C(C)C1(OCC(NC2=C1C=C(C=C2)C=2C=C(SC2)C#N)=O)C=2SC=CC2 | C20H16N2O2S2
